US08030334B2
3-Ethynylpyridine and 4-chloro-6-iodoaniline are processed according to the method described in Example 86 to give 5-chloro-2-pyridin-3-yl-1H-indole. 1H NMR (400 MHz, MeOD) δ ppm 6.96 (s, 1H), 7.14 (dd, J=8.6, 2.0 Hz, 1H), 7.41 (d, J=8.8 Hz, 1H), 7.54 (dd, J=8.0, 4.9 Hz, 1H), 7.59 (d, J=2.0 Hz, 1H), 8.25 (dt, J=8.0, 1.9 Hz, 1H), 8.50 (d, J=4.5 Hz, 1H), 9.02 (s, 1H). HRMS (ESI) m/z 229.0522 [(M+H)+ Calcd for C13H10ClN2: 229.0533].

reactant | 3-Ethynylpyridine | C(#C)C=1C=NC=CC1 | C7H5N
reactant | 4-chloro-6-iodoaniline | ClC1=CC=C(N)C(=C1)I | C6H5ClIN
product | 5-chloro-2-pyridin-3-yl-1H-indole | ClC=1C=C2C=C(NC2=CC1)C=1C=NC=CC1 | C13H9ClN2
